US05183921
To E-α-hydroxyimino-2-phenoxyphenylacetic acid methyl ester (9.99 g, 0.0368 mole) were added methanol (36.8 ml), sodium hydroxide (3.23 g, 0.081 mole) and water (36.8 ml) and the mixture was heated under reflux for one hour. After heating, conc. hydrochloric acid (1 ml) was added to the mixture under ice cooling and the precipitated crystals were filtered off and recrystallized (methanol/ethyl acetate/n-hexane) to obtain E-α-hydroxyimino-2-phenoxyphenylacetic acid (6.90 g, yield: 72.9%) as colorless crystals (decomposition: 180° C.).

reactant | E-α-hydroxyimino-2-phenoxyphenylacetic acid methyl ester | 0.0368 mole, 9.99 g | COC(/C(=N/O)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO4
reactant | methanol | 36.8 ml | CO | CH4O
reactant | sodium hydroxide | 0.081 mole, 3.23 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | water | 36.8 ml | O | H2O
product | E-α-hydroxyimino-2-phenoxyphenylacetic acid | 6.90 g, yield: 72.9% | O\N=C(\C(=O)O)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C14H11NO4
